US07635715B2
Step B: Preparation of Ethyl 6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclohexane-1,1′-naphthalene]-3′-carboxylate
Triflic acid (40.4 mL) was added dropwise via addition funnel to diethyl 2-(1-(4-chlorophenyl)cyclohexanecarbonyl)malonate (17.65 g, 46.3 mmol) at 0° C. The resulting mixture was stirred for 1 hour and then poured into a beaker of ice. The resulting mixture was diluted with 150 mL of EtOAc, added to a separatory funnel, partitioned with water, washed 2 times with 75 mL of NaHCO3 (saturated, aqueous), separated, dried over Na2SO4, and concentrated in vacuo to give the title compound (7.24 g) which was used without further purification. MS (m/z)=335 (M+H)+.

reactant | Triflic acid | 40.4 mL | OS(=O)(=O)C(F)(F)F | CHF3O3S
reactant | diethyl 2-(1-(4-chlorophenyl)cyclohexanecarbonyl)malonate | 46.3 mmol, 17.65 g | ClC1=CC=C(C=C1)C1(CCCCC1)C(=O)C(C(=O)OCC)C(=O)OCC | C20H25ClO5
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | Ethyl 6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclohexane-1,1′-naphthalene]-3′-carboxylate | 7.24 g | ClC=1C=C2C(=C(C(C3(C2=CC1)CCCCC3)=O)C(=O)OCC)O | C18H19ClO4
